US06770596B1
Preparation of 5-(2-Chloroacetylamino)-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4-benzoxazine-3(4H)-one.
4-Chloro-3-[7-fluoro-5-amino-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-5-trifluoromethyl-1H-pyrazole (400 mg, 1.10 mmol) was dissolved in anhydrous dioxane and chloroacetyl chloride (139.5 mg, 1.20 mmol) was added. Solution was heated to reflux for 2 hr and solvent removed in vacuo. The residue was washed with ether to afford the title compound (410 mg, 0.93 mmol).

reactant | 4-Chloro-3-[7-fluoro-5-amino-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-5-trifluoromethyl-1H-pyrazole | 1.10 mmol, 400 mg | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC2=C(NC(CO2)=O)C1N)F | C13H9ClF4N4O2
reactant | chloroacetyl chloride | 1.20 mmol, 139.5 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-Chloroacetylamino)-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4-benzoxazine-3(4H)-one | 0.93 mmol, 410 mg | ClCC(=O)NC1=C(C(=CC2=C1NC(CO2)=O)F)C2=NN(C(=C2Cl)C(F)(F)F)C | C15H10Cl2F4N4O3
